US07427631B2
4-(5-(4-Fluoro-phenyl)-pyridine-2-yl)-piperazine-1-carbaldehyde
4-(5-Bromo-pyridine-2-yl)-piperazine-1-carbaldehyde (100 mg, 0.37 mmol), 4-Fluorobenzeneboronic acid (55 mg, 0.39 mmol), (1,1′-bis(diphenylphosphino)ferrocene)-dichloropalladium(II) (10 mg, 0.01 mmol), Toluene (2 ml), EtOH (0.5 ml) and 2M Na2CO3 solution (0.5 ml, 1 mmol) were heated at 80° C. under N2 overnight. After cooling the mixture was diluted with toluene and separated. The organic phase was washed with water and brine, filtered through a pad of celite and dried over Na2SO4. The solvent were removed in vacuo affording 100 mg (94%) of the title product as a beige powder.

reactant | 4-(5-Bromo-pyridine-2-yl)-piperazine-1-carbaldehyde | 0.37 mmol, 100 mg | BrC=1C=CC(=NC1)N1CCN(CC1)C=O | C10H12BrN3O
reactant | 4-Fluorobenzeneboronic acid | 0.39 mmol, 55 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | EtOH | 0.5 ml | CCO | C2H6O
reactant | Na2CO3 | 1 mmol, 2M, 0.5 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | (1,1′-bis(diphenylphosphino)ferrocene)-dichloropalladium(II) | 0.01 mmol, 10 mg | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | Toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(5-(4-Fluoro-phenyl)-pyridine-2-yl)-piperazine-1-carbaldehyde | 100 mg, 94% | FC1=CC=C(C=C1)C=1C=CC(=NC1)N1CCN(CC1)C=O | C16H16FN3O
